US08809525B2
6-(6-(Methylamino)pyridin-3-yl)-5-phenyl-1,2,4-triazin-3-amine (49.5 mg, 0.177 mmol, 71.4%) was prepared from 5-(3-amino-5-phenyl-1,2,4-triazin-6-yl)pyridin-2-yl(methyl)carbamate (vide supra), by BOC deprotection with trifluoroacetic acid (0.4 mL) in dichloromethane (1.6 mL) for 1 hour at room temperature.

reactant | 5-(3-amino-5-phenyl-1,2,4-triazin-6-yl)pyridin-2-yl(methyl)carbamate | NC=1N=NC(=C(N1)C1=CC=CC=C1)C=1C=CC(=NC1)N(C([O-])=O)C
reactant | trifluoroacetic acid | 0.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.6 mL | ClCCl | CH2Cl2
product | 6-(6-(Methylamino)pyridin-3-yl)-5-phenyl-1,2,4-triazin-3-amine | 0.177 mmol, 49.5 mg, 71.4% | CNC1=CC=C(C=N1)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C15H14N6
